US07557114B2
(a) 5-(3,6-Dihydro-2H-pyran-4-yl)-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A54(a) from 5-chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A61(a)) and vinyltributylstannane. White solid. MS (m/e): 272.4 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C=1CCOCC1 | C18H22ClNO3
reactant | vinyltributylstannane | C(=C)[Sn](CCCC)(CCCC)CCCC
product | 5-(3,6-Dihydro-2H-pyran-4-yl)-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C=1CCOCC1)C=C | C20H25NO3
